US07348449B2
Synthesis of (Z)-3-[3-(8,8-Dimethyl-5-p-tolyl-7,8-dihydro-2-naphthylselanyl)phenyl]acrylic acid
In a manner similar to that of Example 1g, by reacting 0.088 g (0.18 mmol) of ethyl (E)-3-[3-(8,8-dimethyl-5-p-tolyl-7,8-dihydro-2-naphthylselanyl)phenyl]acrylate with 0.09 g (2.14 mmol) of lithium hydroxide hydrate, a yellow solid is obtained (0.06 g; yield=73%).

reactant | ethyl (E)-3-[3-(8,8-dimethyl-5-p-tolyl-7,8-dihydro-2-naphthylselanyl)phenyl]acrylate | 0.18 mmol, 0.088 g | CC1(CC=C(C=2C=CC(=CC12)[Se]C=1C=C(C=CC1)/C=C/C(=O)OCC)C1=CC=C(C=C1)C)C | C30H30O2Se
reactant | lithium hydroxide hydrate | 2.14 mmol, 0.09 g | O.[OH-].[Li+]
product | (Z)-3-[3-(8,8-Dimethyl-5-p-tolyl-7,8-dihydro-2-naphthylselanyl)phenyl]acrylic acid | CC1(CC=C(C=2C=CC(=CC12)[Se]C=1C=C(C=CC1)\C=C/C(=O)O)C1=CC=C(C=C1)C)C | C28H26O2Se
